US06982348B2
To a solution of ethyl 2-[4-(tert-butyl)benzyl]-3-(4-fluorophenyl)-3-oxopropionate (7.43 g, 20.7 mmol) in tetrahydrofuran-methanol (20 ml-20 ml) was added sodium hydroxide at room temperature, and the mixture was stirred overnight at room temperature. After completion of the reaction, the organic solvent was evaporated under reduced pressure, and the residue was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Recrystallization from hexane-ethyl acetate gave (2RS,3RS)-2-[4-(tert-butyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid (5.51 g, 81%) as colorless crystals.

reactant | ethyl 2-[4-(tert-butyl)benzyl]-3-(4-fluorophenyl)-3-oxopropionate | 20.7 mmol, 7.43 g | C(C)(C)(C)C1=CC=C(CC(C(=O)OCC)C(=O)C2=CC=C(C=C2)F)C=C1 | C22H25FO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran-methanol | 20 ml-20 ml | O1C(CCC1)CO | C5H10O2
product | (2RS,3RS)-2-[4-(tert-butyl)benzyl]-3-(4-fluorophenyl)-3-hydroxypropionic acid | 5.51 g, 81% | C(C)(C)(C)C1=CC=C(CC(C(=O)O)C(O)C2=CC=C(C=C2)F)C=C1 | C20H23FO3
